US04515948
60 G. of 3-hydroxy-5-keto-4-phenylazo-3-cyclohexene-carboxylic acid, 200 ml. of methanol, 1200 ml. of benzene and 5 g. of p-toluenesulfonic acid were boiled together under reflux on a water separator for 18 hours. After cooling, the solution was washed with 500 ml. of a 5% sodium bicarbonate solution, then washed with water, dried and evaporated. The residue was dissolved in ethyl acetate and purified on an aluminum oxide column (500 g.; activity stage I). After evaporation of the ethylacetate, there was obtained 3-hydroxy-5-keto-4-phenylazo-3-cyclohexane-carboxylic acid methyl ester as a solid having a melting point of 144° C.

reactant | 3-hydroxy-5-keto-4-phenylazo-3-cyclohexene-carboxylic acid | OC=1CC(CC(C1N=NC1=CC=CC=C1)=O)C(=O)O | C13H12N2O4
reactant | methanol | CO | CH4O
reactant | benzene | C1=CC=CC=C1 | C6H6
reactant | p-toluenesulfonic acid | C1(=CC=C(C=C1)S(=O)(=O)O)C | C7H8O3S
reactant | water | O | H2O
product | 3-hydroxy-5-keto-4-phenylazo-3-cyclohexane-carboxylic acid methyl ester | COC(=O)C1(CCCC(C1N=NC1=CC=CC=C1)=O)O | C14H16N2O4
